US04416687
Preparation of 2-[3,5-bis(trifluoromethyl)phenoxy]acetamide
To a stirred solution containing 5 g (0.022 mole) of 3,5-ditrifluoromethylphenol, 1.6 g (0.024 mole) of 85% potassium hydroxide, 10 ml of water and 200 ml of acetone, 0.024 mole of chloroacetamide was added in one portion. The stirred reaction mixture was heated at 56°-60° C. for 22 hours. After cooling to 0° C., 600 g of ice water was added and stirring continued at 0°-10° C. for 30 minutes. The resulting solid was collected by filtration, washed with water until neutral to litmus and air dried at 25°-30° C. A product with a melting point of 139°-141° C. (determined after recrystallization from 6:1 mixture of heptane and isopropyl alcohol) was obtained with a 32% yield.

reactant | 3,5-ditrifluoromethylphenol | 0.022 mole, 5 g | C1=C(C=C(C=C1C(F)(F)F)O)C(F)(F)F | C8H4F6O
reactant | potassium hydroxide | 0.024 mole, 1.6 g | [OH-].[K+]
reactant | water | 10 ml | O | H2O
reactant | chloroacetamide | 0.024 mole | ClCC(=O)N | C2H4ClNO
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-[3,5-bis(trifluoromethyl)phenoxy]acetamide | 32% yield | FC(C=1C=C(OCC(=O)N)C=C(C1)C(F)(F)F)(F)F | C10H7F6NO2
